US06005103
4-Hydroxy-3-[3-methyl-1-(phenylthio)butyl]-6-phenyl-2H-pyran-2-one, (±)
The title compound was prepared by Method C using 4-hydroxy-6-phenyl-2H-pyran-2-one (1.00 g, 5.31 mmol), ethanol (10 mL), isovaleraldehyde (0.626 mL, 5.84 mmol), thiophenol (1.40 mL, 13.8 mmol), piperdine (0.5 mL), acetic acid (0.5 mL). m.p. 154-156° C.; 1H NMR (400 MHz, acetone-d6) δ0.89 (d, 3 H), 0.93 (d,3H), 1.63 (m,1H), 1.80 (m, 1 H), 2.32 (m,1H), 4.82 (dd, 2 H), 6.70 (s, 1 H), 7.24 (m, 3 H), 7.82 (m, 2 H), 10.49 (bs, 1 H).

reactant | 3,3'-Dithiobis[4-hydroxy-6-phenyl-2H-pyran-2-one] | 5.31 mmol, 1.00 g | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)SSC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C22H14O6S2
reactant | isovaleraldehyde | 5.84 mmol, 0.626 mL | C(CC(C)C)=O | C5H10O
reactant | thiophenol | 13.8 mmol, 1.40 mL | C1(=CC=CC=C1)S | C6H6S
reactant | piperdine | 0.5 mL | N1CCCCC1 | C5H11N
solvent | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-Hydroxy-3-[3-methyl-1-(phenylthio)butyl]-6-phenyl-2H-pyran-2-one | OC1=C(C(OC(=C1)C1=CC=CC=C1)=O)C(CC(C)C)SC1=CC=CC=C1 | C22H22O3S
